US05183492
A mixture of 1.5 g of 1-methoxycarbonyl-1-methylethyl 2-chloro-5-[3,6-dihydro-3 4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoate and 0.4 g of copper(I) cyanide in 20 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone is heated to 220° C. under nitrogen for 6 hours. After cooling to room temperature the mixture is filtered and the filtrate is dissolved in 200 ml of ethyl acetate. The solution is washed four times with 50 ml of water each time, the combined organic phases are dried and concentrated under reduced pressure. In this manner there is obtained 1-methoxycarbonyl-1-methylethyl 2-cyano-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoate, mass spectrum (m/e); 403 10) M+.

reactant | 1-methoxycarbonyl-1-methylethyl 2-chloro-5-[3,6-dihydro-3 4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoate | 1.5 g | ClC1=C(C(=O)OC(C)(C)C(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C)=O | C18H18ClFN2O6
reactant | copper(I) cyanide | 0.4 g | [Cu]C#N
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 20 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | 1-methoxycarbonyl-1-methylethyl 2-cyano-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoate | C(#N)C1=C(C(=O)OC(C)(C)C(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C)=O | C19H18FN3O6
